US09340556B2
To a solution of 1-ethyl-8-fluoro-6,7-bis((4-methoxybenzyl)oxy)-4-oxo-1,4-dihydroquinoline-3-carbaldehyde (6.5 g, 13.22 mmol) in 1,2-Dichloroethane (DCE) (100 mL) was added pyrrolidine (1.637 mL, 19.84 mmol), sodium triacetoxyborohydride (5.61 g, 26.4 mmol) and AcOH (0.076 mL, 1.322 mmol). The reaction mixture was stirred at 25° C. for 3 h. LCMS indicated completion of the reaction. The mixture was diluted with DCM and washed with brine. The organic layer was dried over sodium sulfate and evaporated in vacuo. The crude material was purified by normal phase automatic silica column chromatography (Combiflash RF, 40 g golden column) eluting with MeOH/DCM (0-20%), and purified again with reverse phase automatic silica column chromatography (Combiflash RF, 150 g golden column) eluting with acetonitrile/Water (0-60%) to afford 1-ethyl-8-fluoro-6,7-bis((4-methoxybenzyl)oxy)-3-(pyrrolidin-1-ylmethyl)quinolin-4(1H)-one (4.3 g, 7.87 mmol, 59.5% yield) as a pale yellow solid.

reactant | 1-ethyl-8-fluoro-6,7-bis((4-methoxybenzyl)oxy)-4-oxo-1,4-dihydroquinoline-3-carbaldehyde | 13.22 mmol, 6.5 g | C(C)N1C=C(C(C2=CC(=C(C(=C12)F)OCC1=CC=C(C=C1)OC)OCC1=CC=C(C=C1)OC)=O)C=O | C28H26FNO6
reactant | pyrrolidine | 19.84 mmol, 1.637 mL | N1CCCC1 | C4H9N
reactant | sodium triacetoxyborohydride | 26.4 mmol, 5.61 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | AcOH | 1.322 mmol, 0.076 mL | CC(=O)O | C2H4O2
solvent | 1,2-Dichloroethane | 100 mL | ClCCCl | C2H4Cl2
solvent | DCM | C(Cl)Cl | CH2Cl2
product | 1-ethyl-8-fluoro-6,7-bis((4-methoxybenzyl)oxy)-3-(pyrrolidin-1-ylmethyl)quinolin-4(1H)-one | 7.87 mmol, 4.3 g, 59.5% yield | C(C)N1C=C(C(C2=CC(=C(C(=C12)F)OCC1=CC=C(C=C1)OC)OCC1=CC=C(C=C1)OC)=O)CN1CCCC1 | C32H35FN2O5
